Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L ureterolithiasis
 
Major Surgical or Invasive Procedure:
___ Cystoscopy, L ureteral stent placement

 
History of Present Illness:
___ with h/o nephrolithiasis and pyelonephritis x3 responsive 
to IV abx presents with 4d h/o L flank pain and fever to 102 on 
___.  She presented to her ___ PCP ___ and was diagnosed 
with pyelo and dosed with IV ceftriaxone, no imaging was 
obtained.  She was seen again ___ and got 2nd dose CTX IV and 
labs sent but unable to be obtained due to difficult venous 
access; renal U/S also obtained.  Was to f/u ___ but RUS 
revealed L 9mm UVJ calculus and mild-mod L hydro as well as 
non-obstructing 6mm renal calculus.  Ureteral jet not commented 
upon in outside imaging center report brought by patient (images 
not available).  

She denies shaking chills, gross hematuria, dysuria, abdominal 
pain, N/V, SOB/CP, dizziness/lightheadedness.  Voiding without 
perceived difficulty.  No cause for immunosuppression.

Her prior stone episode was managed conservatively and she 
reportedly passed a 9mm stone, was seen at ___ (___) and 
sent to nephrology but 24h urine/labs never obtained.  

 
Past Medical History:
PMH:
Nephrolithiasis as above, pyelonephritis per medical record x3 - 
once as child, once in ___, once in ___ - all managed with 
antibiotics alone and no clear etiology identified, 4 
spontaneous abortions

PSH:
Denies

 
Social History:
Married. No tob/EtOH/drugs.

 
Physical Exam:
AVSS
NAD
Abd soft/nd/nt
 
Pertinent Results:
___ 08:41AM   GLUCOSE-83 UREA N-7 CREAT-0.5 SODIUM-140 
POTASSIUM-3.3 CHLORIDE-107 TOTAL CO2-23 ANION GAP-13
___ 08:41AM   WBC-9.5 RBC-4.10* HGB-12.4 HCT-35.9* MCV-88 
MCH-30.2 MCHC-34.5 RDW-12.5
___ 07:45PM URINE  RBC-5* WBC-24* BACTERIA-FEW YEAST-NONE 
EPI-1
___ 07:45PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD
 
Brief Hospital Course:
Patient was admitted to the urology service on ___ after she 
was discovered to have a 9mm L distal ureteral stone in the 
setting of a urinary tract infection.  She was given IV 
antibiotics and takent to the operating room that day for 
cystoscopy and left ureteral stent placement.  Please refer to 
the operative note for further details.  She tolerated the 
procedure well and there were no apparent complications.  She 
was monitored overnight.  She remained afebrile with stable 
vital signs.  On the day of discharge, her pain was well 
controlled with PO meds, she was tolerating a regular diet, 
ambulating and voiding without difficulty.  She will be 
discharged with antibiotics and f/u with Dr. ___ a 
definitive stone procedure. 
 
Medications on Admission:
none
 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours).  
2. phenazopyridine 100 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 3 days.
Disp:*9 Tablet(s)* Refills:*0*
3. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q3H (every 3 
hours) as needed for pain.
Disp:*25 Tablet(s)* Refills:*0*
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
5. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 14 days.
Disp:*28 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ureterolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-No vigorous physical activity for 2 weeks. 

-Expect to see occasional blood in your urine and to experience 
urgency and frequecy over the next month.

-Take Motrin as directed and take the narcotic pain medication 
as prescribed if additional pain relief is needed.   

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen)

-Make sure you drink plenty of fluids to help keep yourself 
hydrated and facilitate passage of stone.

-You may shower and bathe normally. 

-Do not drive or drink alcohol while taking narcotics

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.

-Resume all of your home medications, unless otherwise noted.

-If you have fevers > 101.5 F, vomiting, severe abdominal pain, 
or inability to urinate, call your doctor or go to the nearest 
emergency room.
 
Followup Instructions:
___